US08957080B2
Synthesis of N-(2-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)ethyl)-2-cyano-3-cyclopropylacrylamide
A solution of N-(2-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)ethyl)-2-cyanoacetamide (90 mg, 0.22 mole), cyclopropylcarboxaldehyde (18 mg, 0.26 mmole) and piperidine (22 mg, 0.26 mmole) in MeOH (5 mL) was stirred for 3 hr at room temperature. Then water was added and extracted with ethyl acetate. The organic layers were combined and washed with aq. NaHCO3 and brine, then dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography (3% MeOH/DCM) to provide 39 mg (38% yield) of the title compound as a white solid. LCMS m/z 466 (M+H)+.

reactant | N-(2-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)ethyl)-2-cyanoacetamide | 0.22 mole, 90 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCNC(CC#N)=O | C22H19N7O2
reactant | cyclopropylcarboxaldehyde | 0.26 mmole, 18 mg | C1CC1C(C#N)O | C5H7NO
reactant | piperidine | 0.26 mmole, 22 mg | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | N-(2-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)ethyl)-2-cyano-3-cyclopropylacrylamide | 39 mg, 38% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCNC(C(=CC2CC2)C#N)=O | C26H23N7O2
